US05602170
Synthesis of 5-(3-carboxy-3-oxo-1-propenyl)-2,2':5',2"-terthiophene
0.5 g of 5-formyl-2,2':5',2"-terthiophene was dissolved in 40 ml of ethanol, followed by dropping in 3 ml of water containing 0.3 g of pyruvic acid salt and stirring for 10 minutes. 1 ml of 50% NaOH solution was dropped into the solution and stirred overnight. The reaction solution was acidified by diluted HCl and extracted with 100 ml of ethyl acetate. The extract was treated in situ and separated by column chromatography. Unreactive materials were eluted by ethyl acetate/n-hexane (1/9). The black solid product was eluted by ethyl acetate.

reactant | 5-formyl-2,2':5',2"-terthiophene | 0.5 g | C(=O)C1=CC=C(S1)C=1SC(=CC1)C=1SC=CC1 | C13H8OS3
reactant | pyruvic acid | C(C(=O)C)(=O)O | C3H4O3
reactant | NaOH | 1 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | water | 3 ml, 0.3 g | O | H2O
product | 5-(3-carboxy-3-oxo-1-propenyl)-2,2':5',2"-terthiophene | C(=O)(O)C(C=CC1=CC=C(S1)C=1SC(=CC1)C=1SC=CC1)=O | C16H10O3S3
